US06962933B1
N-[4-(3,5-dimethylphenyl)-5-(4-pyridyl)-1,3-thiazol-2-yl]acetamide
To a solution of [4-(3,5-dimethylphenyl)-5-(4-pyridyl)-1,3-thiazol-2-yl]amine (0.50 g, 1.78 mmol) and 4-dimethylaminopyridine (0.06 g, 0.51 mmol) in N,N-dimethylacetamide (5 mL) was added acetyl chloride (0.21 g, 2.67 mmol) and the mixture was stirred at 80° C. for 14 h. To the reaction mixture was poured aqueous sodium hydrogencarbonate. The precipitated solid was collected by filtration. The obtained solid was washed with water and dried. The crude crystals were recrystallized from ethanol to give the title compound (0.17 g, yield 29%).

reactant | [4-(3,5-dimethylphenyl)-5-(4-pyridyl)-1,3-thiazol-2-yl]amine | 1.78 mmol, 0.50 g | CC=1C=C(C=C(C1)C)C=1N=C(SC1C1=CC=NC=C1)N | C16H15N3S
reactant | acetyl chloride | 2.67 mmol, 0.21 g | C(C)(=O)Cl | C2H3ClO
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
catalyst | 4-dimethylaminopyridine | 0.51 mmol, 0.06 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | N,N-dimethylacetamide | 5 mL | CN(C(C)=O)C | C4H9NO
product | N-[4-(3,5-dimethylphenyl)-5-(4-pyridyl)-1,3-thiazol-2-yl]acetamide | 0.17 g, yield 29% | CC=1C=C(C=C(C1)C)C=1N=C(SC1C1=CC=NC=C1)NC(C)=O | C18H17N3OS
